US04673746
A mixture of 382 g of 4'-chloro-2-hydroxy-4-methoxybenzophenone, 230 g hydroxylamine hydrochloride and 1.5 liters of pyridine is heated under reflux for 3 hr. The solvent is evaporated and the residue is partitioned between hydrochloric acid and ethyl acetate. The organic extracts are combined and washed with saturated sodium chloride solution. The solvent is removed to afford a mixture of E- and Z-oxime isomers which is separated on a Waters Prep IC System 500 using 5% ethyl acetate/toluene as the eluting system to afford E-4'-chloro-2-hydroxy-4-methoxybenzophenone oxime, mp 159° C.

reactant | 4'-chloro-2-hydroxy-4-methoxybenzophenone | 382 g | ClC1=CC=C(C=C1)C(C1=C(C=C(C=C1)OC)O)=O | C14H11ClO3
reactant | hydroxylamine hydrochloride | 230 g | Cl.NO
solvent | pyridine | 1.5 liters | N1=CC=CC=C1 | C5H5N
product | E-4'-chloro-2-hydroxy-4-methoxybenzophenone oxime | ClC1=CC=C(C=C1)\C(\C1=C(C=C(C=C1)OC)O)=N/O | C14H12ClNO3
